US06965048B2
To a solution of 200 mg (0.67 mmol) of trans-{4-[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-cyclohexyl}-acetic acid and 0.065 mL (0.8 mmol, 1.2 eq) of 2-(methylamino)-ethanol were added 0.4 mL (3.3 mmol, 5 eq) of 4-ethylmorpholine and 0.31 g (0.7 mmol, 1.05 eq) of BOP at RT. The solution was stirred at RT for 3 h, diluted with ether and 1M HCl was added. The phases were separated and the organic phases were washed with water and brine and dried over magnesium sulfate. Evaporation yielded 234 mg (quantitative) of crude trans [2-(4-{[(2-hydroxy-ethyl)-methyl-carbamoyl]-methyl}-cyclohexyl)-ethyl]-methyl-carbamic acid tert-butyl ester as colorless oil, MS: 357 (MH+).

reactant | trans-{4-[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-cyclohexyl}-acetic acid | 0.67 mmol, 200 mg | C(C)(C)(C)OC(=O)N(CC[C@@H]1CC[C@H](CC1)CC(=O)O)C | C16H29NO4
reactant | 2-(methylamino)-ethanol | 0.8 mmol, 0.065 mL, 1.2 eq | CNCCO | C3H9NO
reactant | 4-ethylmorpholine | 3.3 mmol, 0.4 mL, 5 eq | C(C)N1CCOCC1 | C6H13NO
reactant | BOP | 0.7 mmol, 0.31 g, 1.05 eq | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | ether | CCOCC | C4H10O
solvent | HCl | 1M | Cl | ClH
product | trans [2-(4-{[(2-hydroxy-ethyl)-methyl-carbamoyl]-methyl}-cyclohexyl)-ethyl]-methyl-carbamic acid tert-butyl ester | 234 mg | C(C)(C)(C)OC(N(C)CC[C@@H]1CC[C@H](CC1)CC(N(C)CCO)=O)=O | C19H36N2O4
